US07318991B2
To 80 ml of acetic anhydride were suspended 9.8 g (0.05 mol) of xanthene-9-one and 16.1 g (0.05 mol) of iodobenzene diacetate, and 10 g (0.1 mol) of concentrated sulfuric acid was added dropwise thereto at 0 to 7° C. for 1 hour, followed by gradually warming to room temperature and reacting with stirring for 8 hours. After completion of the reaction, the obtained reaction solution was poured into 200 ml of ice water, and 150 ml of toluene was added thereto to dissolve insoluble substance. The solution was fractionated and 12.6 g (0.1 mol) of potassium tetrafluoroborate was added to the obtained water layer, followed by stirring at room temperature for 2 hours. The precipitated crystal was filtered off and dried at 50° C. under vacuum for 2 hours to obtain 11.4 g of 2-(phenyliodonio)xanthene-9-one tetrafluoroborate as pale orange crystal (yield: 47%).

reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | xanthene-9-one | 0.05 mol, 9.8 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)=O | C13H8O2
reactant | iodobenzene diacetate | 0.05 mol, 16.1 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | sulfuric acid | 0.1 mol, 10 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium tetrafluoroborate | 0.1 mol, 12.6 g | F[B-](F)(F)F.[K+]
solvent | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(phenyliodonio)xanthene-9-one tetrafluoroborate | 11.4 g, yield: 47% | F[B-](F)(F)F.C1(=CC=CC=C1)[I+]C1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | InChI=1S/C19H12IO2.BF4/c21-19-15-8-4-5-9-17(15)22-18-11-10-14(12-16(18)19)20-13-6-2-1-3-7-13;2-1(3,4)5/h1-12H;/q+1;-1
